US09168245B2
Synthesis of intermediate I-g: 4-ethoxymethyl-1-methyl-2-nitro-benzene
To a solution of NaOEt in dry EtOH (45 mL, 114.90 mmol) under inert atmosphere was added 4-chloromethyl-1-methyl-2-nitro-benzene (7.0 g, 38.30 mmol). The reaction mixture was stirred at room temperature for 16 hours. Water was added and ethanol was removed under reduced pressure. The crude product was extracted with DCM (2 times) and the organic layer was washed with water, then with a saturated solution of NaCl, dried over MgSO4 and concentrated to give I-g as brown oil in 96% yield. 1H NMR (300 MHz, CDCl3) δ 7.95 (s, 1H), 7.48 (d, J=7.8 Hz, 1H), 7.31 (d, J=7.9 Hz, 1H), 4.52 (s, 2H), 3.56 (q, J=7.0 Hz, 2H), 2.57 (d, J=10.1 Hz, 3H), 1.26 (t, J=7.0 Hz, 3H).

reactant | NaOEt | CC[O-].[Na+]
reactant | EtOH | 114.90 mmol, 45 mL | CCO | C2H6O
reactant | 4-chloromethyl-1-methyl-2-nitro-benzene | 38.30 mmol, 7.0 g | ClCC1=CC(=C(C=C1)C)[N+](=O)[O-] | C8H8ClNO2
solvent | Water | O | H2O
product | 4-ethoxymethyl-1-methyl-2-nitro-benzene | 96% yield | C(C)OCC1=CC(=C(C=C1)C)[N+](=O)[O-] | C10H13NO3
